US05998436
To 800 mg of trifluoroacetic acid was added 340 mg of 2-t-butylamino-3-fluoro-5-methyl-6-(1,1,3,3-tetramethylbutylamino)pyridine, and the mixture was allowed to stand at room temperature for 30 minutes. The solution was concentrated under reduced pressure to obtain crude 2,6-diamino-3-fluoro-5-methylpyridine as a pale brown solid residue.

reactant | trifluoroacetic acid | 800 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-t-butylamino-3-fluoro-5-methyl-6-(1,1,3,3-tetramethylbutylamino)pyridine | 340 mg | C(C)(C)(C)NC1=NC(=C(C=C1F)C)NC(CC(C)(C)C)(C)C | C18H32FN3
product | 2,6-diamino-3-fluoro-5-methylpyridine | NC1=NC(=C(C=C1F)C)N | C6H8FN3
